US08748624B2
STEP E: ethyl 3-(5-(2-(((3′,4′-dichloro-2-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)-5-fluorophenyl)picolinamido)propanoate
Ethyl 3-(5-(2-(((4-bromo-3-fluorophenyl)amino)methyl)-5-fluorophenyl)picolinamido)propanoate (100 mg, 0.19 mmol), (3,4-dichlorophenyl)boronic acid (44 mg, 0.23 mmol), Pd(dppf)Cl2 (21 mg, 0.03 mmol), and K2CO3 (53 mg, 0.39 mmol) were dissolved in 1,4-dioxane (4 mL) and water (1 mL) and the resulting mixture was heated to 80° C. After 16 h the resulting mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | Ethyl 3-(5-(2-(((4-bromo-3-fluorophenyl)amino)methyl)-5-fluorophenyl)picolinamido)propanoate | 0.19 mmol, 100 mg | BrC1=C(C=C(C=C1)NCC1=C(C=C(C=C1)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)F | C24H22BrF2N3O3
reactant | (3,4-dichlorophenyl)boronic acid | 0.23 mmol, 44 mg | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | K2CO3 | 0.39 mmol, 53 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.03 mmol, 21 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(2-(((3′,4′-dichloro-2-fluoro-[1,1′-biphenyl]-4-yl)amino)methyl)-5-fluorophenyl)picolinamido)propanoate | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)NCC1=C(C=C(C=C1)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)F | C30H25Cl2F2N3O3
